US07713979B2
1-Cyclohexyl-3-(2-hydroxy-benzyl)-pyrrolidin-2-one
Add boron tribromide (0.21 mL, 2.2 mmol) to a solution of 1-cyclohexyl-3-(2-methoxy-benzyl)-pyrrolidin-2-one (210 mg, 0.73 mmol) in dichloromethane (5 mL). Stir 20 minutes. Pour mixture onto a mixture of ice and saturated sodium bicarbonate. Stir 5 minutes. Wash the organic layer with water, brine, dry, concentrate, and purify the residue on a Biotage cartridge, eluting with 4:1 hexanes:ethyl acetate to afford the title compound (115 mg): MS (APCI-pos mode) m/z (rel intensity) 274 (100).

reactant | boron tribromide | 2.2 mmol, 0.21 mL | B(Br)(Br)Br | BBr3
reactant | 1-cyclohexyl-3-(2-methoxy-benzyl)-pyrrolidin-2-one | 0.73 mmol, 210 mg | C1(CCCCC1)N1C(C(CC1)CC1=C(C=CC=C1)OC)=O | C18H25NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-Cyclohexyl-3-(2-hydroxy-benzyl)-pyrrolidin-2-one | 115 mg | C1(CCCCC1)N1C(C(CC1)CC1=C(C=CC=C1)O)=O | C17H23NO2
